US06495546B1
Under nitrogen, to fuming nitric acid (60 ml) was added 6,7,8,9-tetrahydrobenzocyclohepten-5-one (20 g) on ice-cooling, and the mixture was stirred at the same temperature for 1 hour. The resulting mixture was poured into ice water (200 ml). The precipitates were collected by filtration and dissolved into ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to afford 3-nitro-6,7,8,9-tetrahydrobenzocyclohepten-5-one (14.87 g).

reactant | nitric acid | 60 ml | [N+](=O)(O)[O-] | HNO3
reactant | 6,7,8,9-tetrahydrobenzocyclohepten-5-one | 20 g | C1=CC=CC2=C1CCCCC2=O | C11H12O
product | 3-nitro-6,7,8,9-tetrahydrobenzocyclohepten-5-one | 14.87 g | [N+](=O)([O-])C1=CC2=C(CCCCC2=O)C=C1 | C11H11NO3
